US09233098B2
2. Preparation of 2-[3-[4-(4-chlorobenzamido)benzyl]-1H-indazol-1-yl]acetic acid
Ethyl 2-[3-[4-(4-chlorobenzamido)benzyl]-1H-indazol-1-yl]acetate (100 mg, 0.223 mmol) was dissolved in 3 mL tetrahydrofuran, and 1 mL methanol, 3 mL water were added. In an ice bath was, 47 mg (1.12 mmol) lithium hydroxide monohydrate was added. I was moved to be at room temperature and reacted for 10 minutes. The reaction was monitored to be complete by TLC. Diluted hydrochloric acid was added to adjust pH to be acidic. Water was added, pumping filtered, dried to obtain a white solid 70 mg, at a yield of 74.9%

reactant | Ethyl 2-[3-[4-(4-chlorobenzamido)benzyl]-1H-indazol-1-yl]acetate | 0.223 mmol, 100 mg | ClC1=CC=C(C(=O)NC2=CC=C(CC3=NN(C4=CC=CC=C34)CC(=O)OCC)C=C2)C=C1 | C25H22ClN3O3
reactant | methanol | 1 mL | CO | CH4O
reactant | lithium hydroxide monohydrate | 1.12 mmol, 47 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
solvent | water | 3 mL | O | H2O
product | 2-[3-[4-(4-chlorobenzamido)benzyl]-1H-indazol-1-yl]acetic acid | 70 mg, yield of 74.9% | ClC1=CC=C(C(=O)NC2=CC=C(CC3=NN(C4=CC=CC=C34)CC(=O)O)C=C2)C=C1 | C23H18ClN3O3
